US06407124B1
To a stirred solution of carbon tetrabromide (24.0 g, 72.4 mmole) in methylene chloride (200 mL) at 5-10 deg C. under argon atmosphere was added triphenylphosphine (37.0 g, 141 mmole) in portions. The reaction mixture was stirred for 5 min and treated with a solution of 2-formyl-5-t-butyloxazole in methylene chloride (60 mL). The reaction mixture was stirred at room temperature for 2 hours, while a white solid precipitated out of the solution. The solid was filtered off, the filtrate concentrated and purified (silica gel, EtOAc/hexane 1:4) to give 1,1-dibromo-2-(5-t-butyl-oxazol-2-yl)ethylene as a pale solid (9.13 g, 39 %).

reactant | carbon tetrabromide | 72.4 mmole, 24.0 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 141 mmole, 37.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-formyl-5-t-butyloxazole | C(=O)C=1OC(=CN1)C(C)(C)C | C8H11NO2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dibromo-2-(5-t-butyl-oxazol-2-yl)ethylene | 9.13 g, 39 % | BrC(=CC=1OC(=CN1)C(C)(C)C)Br | C9H11Br2NO
